US08492549B2
Thioacetic acid S-{(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-ylmethyl}ester
A mixture of methanesulfonic acid (S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-ylmethyl ester (927 mg, 2.61 mmol), thioacetic acid (373 μl, 399 mg, 5.24 mmol) and K2CO3 (721 mg, 5.22 mmol) in DMF (35 ml) was heated at 95° C. for 10 h. The mixture was evaporated to dryness, dissolved in DCM and washed two times with sat. aq NaHCO3. The organic phase was washed with brine, dried (Na2SO4) and evaporated to dryness to give 794 mg of the title compound.

reactant | methanesulfonic acid (S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-ylmethyl ester | 2.61 mmol, 927 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@@](CCC2)(C)COS(=O)(=O)C | C17H25NO5S
reactant | thioacetic acid | 5.24 mmol, 373 μl, 399 mg | C(C)(=S)O | C2H4OS
reactant | K2CO3 | 5.22 mmol, 721 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | Thioacetic acid S-{(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-ylmethyl}ester | 794 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@@](CCC2)(C)CSC(C)=O | C18H25NO3S
